US06159941
N-(4-bromobenzyl)-N-(3-isothiocyanatopropyl)-N-(pyridin-2-yl)amine(1 g, 2.76 mmol) and 3-(1-triphenylmethylimidazol-4-yl)propylamine (1.014 g, 2.76 mmol) were dissolved in chloroform (10 ml) and heated at reflux for 4 h. The solvent was removed by evaporation in vacuo and the residue (3.09 g) purified by column chromatography on silica gel (400 ml) using ethyl acetate/methanol/triethylamine 9:0.5:0.5 as eluent affording 1.59 g (80%) of pure 1-[3-(1-triphenylmethylimidazol-4-yl)propyl]-3-[3[N-(4-bromobenzyl)-N-(pyridin-2-yl)amino]propyl]thiourea.

reactant | N-(4-bromobenzyl)-N-(3-isothiocyanatopropyl)-N-(pyridin-2-yl)amine | 2.76 mmol, 1 g | BrC1=CC=C(CN(C2=NC=CC=C2)CCCN=C=S)C=C1 | C16H16BrN3S
reactant | 3-(1-triphenylmethylimidazol-4-yl)propylamine | 2.76 mmol, 1.014 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25N3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[3-(1-triphenylmethylimidazol-4-yl)propyl]-3-[3[N-(4-bromobenzyl)-N-(pyridin-2-yl)amino]propyl]thiourea | 1.59 g, 80% | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCNC(=S)NCCCN(C1=NC=CC=C1)CC1=CC=C(C=C1)Br)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H41BrN6S
